US04754068
120 g (1.1 mol) of 3-aminophenol, 59.5 g (1.1 mol) of sodium methoxide and 500 ml of N-methylpyrrolidone were charged in the same apparatus as described in Example 1. The temperature of the content was raised under stirring while passing gaseous nitrogen through it. When the internal temperature reached 67° C., methanol began to be distilled away. The temperature was raised slowly while distilling away methanol. When the internal temperature reached 120° C., 91 g (0.5 mol) of 1,3,5-trichlorobenzene was added. The amount of methanol distilled away was 38 ml. The content was heated to 170° to 180° C. and maintained at that temperature for 15 hours to accomplish the condensation. Then the reaction mixture was treated according to the same procedure as described in Example 1 to obtain 170 g of 1,3-bis(3-aminophenoxy)-5-chlorobenzene hydrochloride (yield: 85%).

reactant | 3-aminophenol | 1.1 mol, 120 g | NC=1C=C(C=CC1)O | C6H7NO
reactant | sodium methoxide | 1.1 mol, 59.5 g | C[O-].[Na+]
reactant | N-methylpyrrolidone | 500 ml | CN1C(CCC1)=O | C5H9NO
reactant | 1,3,5-trichlorobenzene | 0.5 mol, 91 g | ClC1=CC(=CC(=C1)Cl)Cl | C6H3Cl3
reactant | methanol | CO | CH4O
product | 1,3-bis(3-aminophenoxy)-5-chlorobenzene hydrochloride | 170 g, yield: 85% | Cl.NC=1C=C(OC2=CC(=CC(=C2)Cl)OC2=CC(=CC=C2)N)C=CC1 | InChI=1S/C18H15ClN2O2.ClH/c19-12-7-17(22-15-5-1-3-13(20)9-15)11-18(8-12)23-16-6-2-4-14(21)10-16;/h1-11H,20-21H2;1H
